US05665718
0.73 ml (9 mmol) of propylamine was added to a suspension of 1 g (3 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one in 30 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 12 hours. The solution was evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous solution was extracted with methylene chloride and the organic phases were dried, filtered and evaporated. The residue was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1). There was obtained 0.86 g (80%) of (S)-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.38 (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1).

reactant | propylamine | 9 mmol, 0.73 ml | C(CC)N | C3H9N
reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 3 mmol, 1 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C13H10ClN5O2S
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.86 g, 80% | C(CC)NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C17H18N6O2S
